US05734053
5-Amino-1-n-propylimidazole-4-carboxamide
A mixture of 2-amino-2-cyanoacetamide (2.8 g, 0.0282 mol), trimethylorthoformate (3.4 g, 0.0321 mol) and acetonitrile (55 ml) was heated under reflux for 0.75 hour, then allowed to cool. n-Propylamine (1.8 g, 0.0305 mol) was then added dropwise, and the resulting mixture stirred at ambient temperature for 36 hours. The solid which precipitated was collected by filtration and crystallised from methanol to give the title compound as a colourless solid (2.9 g, 61%), m.p. 241°-243° C. Found: C,49.67; H,7.15; N,33.64. C7 H12N4O requires C,49.98; H,7.19; N,33.31%.

reactant | 2-amino-2-cyanoacetamide | 0.0282 mol, 2.8 g | NC(C(=O)N)C#N | C3H5N3O
reactant | trimethylorthoformate | 0.0321 mol, 3.4 g | COC(OC)OC | C4H10O3
reactant | n-Propylamine | 0.0305 mol, 1.8 g | C(CC)N | C3H9N
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
product | 5-Amino-1-n-propylimidazole-4-carboxamide | 2.9 g, 61% | NC1=C(N=CN1CCC)C(=O)N | C7H12N4O
